US08106043B2
2-(Ethylamino)-1-(7-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethanone:
A solution of 2-chloro-1-(7-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethanone (9.9 g, 38.6 mmol) in anhydrous acetonitrile (250 mL) under positive argon pressure was treated with K2CO3 (42.7 g, 309 mmol) to give a yellow suspension. The mixture was cooled to 0° C. and treated with ethanamine hydrochloride (15.7 g, 193 mmol). The reaction was brought to room temperature and stirred for 2.5 hours. The mixture was then filtered through a pad of Celite, washed with CH2Cl2 (500 mL), and concentrated. The residue was subjected to flash chromatography on silica gel using EtOAc, followed by 2.5:97.5 (2M NH3 in MeOH):CH2Cl2 to give a yellow solid (7.73 g, 76%). 1H-NMR (DMSO-d6) δ 8.29 (d, J=9.0 Hz, 1H), 7.80 (dd, J=2.7, 9.3 Hz, 1H), 7.71 (d, J=2.7 Hz, 1H), 4.36 (t, J=4.2 Hz, 2H), 3.93 (t, J=4.8 Hz, 2H), 3.71 (s, 2H), 2.62 (q, J=7.2 Hz, 2H), 1.05 (t, J=7.2 Hz, 3H). ESI-MS (m/z, %): 266.1 (MH+, 100).

reactant | 2-chloro-1-(7-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethanone | 38.6 mmol, 9.9 g | ClCC(=O)N1C2=C(OCC1)C=C(C=C2)[N+](=O)[O-] | C10H9ClN2O4
reactant | K2CO3 | 309 mmol, 42.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethanamine hydrochloride | 193 mmol, 15.7 g | Cl.C(C)N
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 2-(Ethylamino)-1-(7-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethanone | 7.73 g, 76% | C(C)NCC(=O)N1C2=C(OCC1)C=C(C=C2)[N+](=O)[O-] | C12H15N3O4
